US09422287B2
b) 10-Bromo-8,8-dimethyl-8H-indolo[3,2,1-de]acridine
16.4 g (43.6 mmol) of 2-(5-bromo-2-carbazol-9-ylphenyl)propan-2-ol are dissolved in 1200 ml of degassed toluene, a suspension of 40 g of polyphosphoric acid and 28 ml of methanesulfonic acid is added, and the mixture is heated at 60° C. for 1 h. The batch is cooled, and water is added. A solid precipitates out and is dissolved in methylene chloride/THF (1:1). The solution is carefully rendered alkaline using 20% NaOH, the phases are separated and dried over MgSO4. The solid obtained is washed by stirring with heptane. Yield: 14.8 g (40 mmol), 95% of theory, purity according to 1H-NMR about 95%.

reactant | 2-(5-bromo-2-carbazol-9-ylphenyl)propan-2-ol | 43.6 mmol, 16.4 g | BrC=1C=CC(=C(C1)C(C)(C)O)N1C2=CC=CC=C2C=2C=CC=CC12 | C21H18BrNO
reactant | methanesulfonic acid | 28 ml | CS(=O)(=O)O | CH4O3S
reactant | water | O | H2O
solvent | toluene | 1200 ml | C1(=CC=CC=C1)C | C7H8
product | 10-Bromo-8,8-dimethyl-8H-indolo[3,2,1-de]acridine | BrC=1C=CC=2N3C4=C(C=CC=C4C(C2C1)(C)C)C=1C=CC=CC13 | C21H16BrN
